US04093736
(a) 3-[6-(4-Benzyloxyphenyl)-3-hexenyl]-2,4-pentanedione
[I; Ar is 3-C6H5CH2OC6H4, R0 is H, R' and R" are CH3CO, Y is CH=CHCH2CH2 ] was prepared by reacting 6-(4-benzyloxyphenyl)-3-hexenyl iodide (Preparation D16) with lithium pentane-2,4-dione. The product was chromatographed on activated magnesium silicate and eluted with benzene.

reactant | 6-(4-benzyloxyphenyl)-3-hexenyl iodide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC=CCCI | C19H21IO
reactant | lithium pentane-2,4-dione | CC(CC(C)=O)=O.[Li]
product | 3-[6-(4-Benzyloxyphenyl)-3-hexenyl]-2,4-pentanedione | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC=CCCC(C(C)=O)C(C)=O | C24H28O3
